US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-(hydroxy-diphenyl-methyl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.50 g, 0.96 mmol), 4-(hydroxy-diphenyl-methyl)-piperidine (0.39 g, 1.44 mmol), and potassium carbonate (0.60 g, 4.34 mmol) in dimethylformamide (30 mL). Heat to 80° C. After 48 hours, cool and evaporate in vacuo to obtain a residue. Partition the residue between ethyl acetate and water. Extract the organic layer with water and a saturated solution of potassium carbonate. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give a foam. Combine the foam with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo at 65° C. to obtain the title compound: Rf=0.21 (silica gel, 5/1 ethyl acetate/methanol); mp; 95-97° C.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 0.96 mmol, 0.50 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OC)OC | C25H33NO8S
reactant | 4-(hydroxy-diphenyl-methyl)-piperidine | 1.44 mmol, 0.39 g | OC(C1CCNCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21NO
reactant | potassium carbonate | 4.34 mmol, 0.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-(hydroxy-diphenyl-methyl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O)C=C(C1OC)OC | C42H50N2O7
